Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
___ y/o F with PMhx of HCV s/p treatment, Bipolar Disorder,
Tobacco dependence and was seen on ___ at the ___ for
abd pain, N/V and presents to ___ with persistent abd pain,
N/V.   Pt was evaluated in ___ and was noted to have a
mildly elevated lipase, normal CT abd without any note of 
biliary
dilation or CBD stone.  However, the ___ physician was concern 
for
possible gallstone pancreatitis as the recent hepatology notes
refer to MRCP from ___ that raised question of a 2mm filling
defect in the CBD.  Pt was encouraged to consider transfer to
___ for MRCP/ERCP but she decided to leave AMA to care for her
dogs with plan to return to ___ in the morning.  Pt received
some IV pain meds and had some relief in symptoms.   She 
returned
home in the evening but woke up with recurrent abd pain, nausea
and diarrhea which prompted her presentation at ___ today.

On arrival to the ___ ___, VS 98.2  HR 69 RR 20 BP 145/89 and
SAts 100% on RA.   Pt was reporting ___ abd pain.   Labs were
notable for normal CBC, normal LFTs and UA with ketones.  RUQ 
u/s
showed stable mild intra and extrahepatic biliary dilation (as
compared to MRCP in ___.  CXR showed a 1cm LUL nodule for 
which
follow up was recommended.  Pt was given IVF, Morphine and
Dilaudid prior to admission.

On arrival to the floor, pt was reporting ongoing ___ abd pain
that is located over RUQ and RLQ.  She has some associated
nausea, poor appetite and general malaise.  She did have some
pain relief after dilaudid but otherwise, nothing has been
helpful at relieving the pain.  She reports that the abd pain
woke her up on ___ morning and has been fairly constant
since that time.  She has had associated N/V and loose stools. 
Denies any hematemesis, BRBPR or black stools.  She did note a
temp of 100.2 with sweats/chills at home.  She has had 
associated
joint pains, back ache and feeling washed out due to very 
limited
po intake over the last few days.  She also notes 15lb weight
loss over the last ___.  Reports dark urine without any
dysuria or hematuria.  Denies any sick contacts, no ETOH or
illicits.  
 
Past Medical History:
Remote hx of ETOH Abuse (none in ___
Bipolar Disorder
Hx of gastritis
COPD, tobacco dependence
HCV s/p Harvoni with SVR 
S/p lap cholecystectomy in ___
 
Social History:
___
Family History:
sister with breast cancer recently died and father died at ___ in 
the hospital 
 
Physical Exam:
Admission exam
97.5 133/78 49 18 98 RA 
GEN: young, thin female in NAD, appears tired
HEENT: white exudate on tongue
CV: RR, bradycardic
RESP: CTAB no w/r appreciated
ABD: soft, BS present, no rebound/guarding, mild TTP over RUQ
GU: no foley 
EXTR: warm, no edema
NEURO: alert, appropriate, oriented
PSYCH: anxious, no psychomotor agitation, normal eye contact

Discharge exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert, resting in bed, NAD
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non tender to palpation.  Bowel 
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: appropriate affect
 
Pertinent Results:
Admission labs

___ 04:00PM BLOOD WBC-7.9 RBC-4.44 Hgb-14.3 Hct-43.4 MCV-98 
MCH-32.2* MCHC-32.9 RDW-12.7 RDWSD-45.7 Plt ___
___ 04:00PM BLOOD Glucose-99 UreaN-9 Creat-0.6 Na-140 K-4.2 
Cl-100 HCO3-27 AnGap-13
___ 04:00PM BLOOD ALT-7 AST-12 AlkPhos-68 TotBili-0.8
___ 04:00PM BLOOD Lipase-26
___ 04:00PM BLOOD Albumin-4.2 Calcium-9.3 Phos-3.2 Mg-1.7

Discharge labs

___ 06:55AM BLOOD WBC-4.1 RBC-3.95 Hgb-12.7 Hct-38.4 MCV-97 
MCH-32.2* MCHC-33.1 RDW-12.6 RDWSD-44.8 Plt ___
___ 06:55AM BLOOD Glucose-84 UreaN-4* Creat-0.6 Na-144 
K-3.2* Cl-103 HCO3-30 AnGap-11
___ 06:55AM BLOOD Calcium-8.6 Phos-3.8 Mg-2.2

Imaging
==================================
CXR ___
IMPRESSION: 
-No focal consolidation
-1 cm nodule in the left upper lobe.  Please refer to ___ 
___ follow-up recommendations below.
 
RECOMMENDATION(S):  For incidentally detected single solid 
pulmonary nodule bigger than 8mm, a follow-up CT in 3 months, a 
PET-CT, or tissue sampling is recommended.

RUQ US ___
IMPRESSION: 
 
1.  Mild central intrahepatic and extrahepatic biliary ductal 
dilatation,
which is not significantly changed compared to prior MRI.  No 
intraductal
stone is identified.
2.  Cholecystectomy.

Transvaginal US ___
FINDINGS: 
 
The uterus is anteverted and measures 5.7 cm x 3.2 cm x 4.3 cm.  
The
endometrium is heterogenous and measures 8 mm.  I get the 
impression of an
endometrial polyp measuring 15 x 4 x 15 mm, but no internal 
vascularity
identified.  Minimal surrounding hypoechoic endometrial fluid.
 
The right ovary is normal.  The left ovary was not visualized.  
There is no free fluid.
 
IMPRESSION: 
 
Suspected endometrial polyp measuring 15 x 4 x 15 mm.

CT chest ___
IMPRESSION: 
 
9 mm nodule in the left upper lobe with central calcification 
could represent a granuloma.
 
Noncalcified right middle lobe pulmonary nodule measuring 4 mm 
is
indeterminate.  Three-month follow-up is recommended.
 
Small diffuse moderate to severe centrilobular emphysema.
 
Small bilateral axillary lymph nodes are most likely reactive.

ERCP - see OMR report

Micro
===========================
___ UCx - negative
___ BCx - NGTD
 
Brief Hospital Course:
___ y/o F with PMhx of HCV s/p treatment, bipolar disorder, s/p 
CCY who p/w 4 days of abd pain, N/V and mildly elevated lipase 
on ___.  Given a previous MRCP ___ with
possible 2mm filling defect in the CBD, there was concern for 
possible gallstone pancreatitis and pt was referred to ___ for 
further evaluation.

#Abdominal pain
#Mild Pancreatitis: Pt has ongoing epigastric abd pain, 
inability to tolerate po with N/V but normal LFTs.  Pt did not 
have any e/o of CBD obstruction on CT from ___ on ___ or 
RUQ u/s on ___. She did have a possible 2mm filling defect on 
MRCP dated ___.  She had mildly elevated lipase on OSH 
that was normal on admission to ___ although patient with 
ongoing sypmtoms. ERCP/EUS was performed and revealed small 2mm 
area of hyperplasia in the CBD but no pathologic findings 
otherwise. She also had transvaginal US notable for endometrial 
polyp but no clear source of pain. She was given oxycodone and 
bowel regimen with good effect. Her pain resolved.

#Bipolar with Anxiety: resumed home med regimen 

#ADHD: held home Adderall while inpt

#LUL Lung nodule seen on CXR, approx. 1cm: given pt report of 
weight loss and tobacco dependence, CT chest ordered which 
revealed 9 mm granuloma in LUL and another 4 mm nodule in RML. 
Patient was set up in lung ___ clinic for further monitoring 
and management. 

#Hx of HCV s/p treatment in SVR: outpt f/u with Dr. ___ 

___ issues
[ ] f/u with outpatient gynecology for management of endometrial 
polyp
[ ] f/u in lung ___ clinic for continued monitoring of lung 
nodules
[ ] patient will need repeat MRCP in 6 months for surveillance 
of CBD 2mm soft tissue mass 

Greater than 30 minutes were spent providing and coordinating 
care for this patient on day of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 2 mg PO QID:PRN anxiety 
2. Amphetamine-Dextroamphetamine XR 60 mg PO DAILY 
3. DULoxetine ___ 60 mg PO DAILY 
4. Gabapentin 1200 mg PO BID 
5. Latuda (lurasidone) 120 mg oral DAILY 
6. Evista (raloxifene) 60 mg oral DAILY 
7. TraZODone 200 mg PO QHS 
8. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
9. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*18 Tablet Refills:*0 
3.  Amphetamine-Dextroamphetamine XR 60 mg PO DAILY  
4.  ClonazePAM 2 mg PO QID:PRN anxiety  
5.  DULoxetine ___ 60 mg PO DAILY  
6.  Evista (raloxifene) 60 mg oral DAILY  
7.  Gabapentin 1200 mg PO BID  
8.  Latuda (lurasidone) 120 mg oral DAILY  
9.  TraZODone 200 mg PO QHS  
10.  Vitamin D 1000 UNIT PO DAILY  
11.  Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
lung nodule
endometrial polyp

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted for abdominal pain. You had an ERCP which 
re-demonstrated a very small mass in your common bile duct which 
did not appear cancerous. This should be followed by repeat MRCP 
every 6 months. You also had an ultrasound of your uterus and 
ovaries which showed a polyp however no clear explanation of 
your pain. Your pain improved with pain meds. Please schedule an 
appointment with your gynecologist after discharge. 

You also had a CT scan which showed two small nodules that will 
need to be followed with additional CT scans every ___ months to 
ensure they are not growing larger. You were also set up with an 
appointment to see the lung specialists to monitor these 
nodules. 

Thank you for allowing us to participate in your care, 
Your ___ team 
 
Followup Instructions:
___